US05814653
6-(ethoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 6.0 mg (0.026 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 2.96 mg (0.0273 mMol) ethyl chloroformate, 4.1 mg (52%) of the title compound were recovered.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.026 mMol, 6.0 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | ethyl chloroformate | 0.0273 mMol, 2.96 mg | ClC(=O)OCC | C3H5ClO2
product | 6-(ethoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 4.1 mg, 52% | C(C)OC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C17H23N3O2
